US08217063B2
4-[(4E)-3-[2-(4-Carboxyphenyl)ethyl]-5-{5-fluoro-2-[3-(2-oxopyrrolidin-1-yl)propoxy]phenyl}-pent-4-en-1-yl]benzoic acid
18 mg (0.75 mmol) of lithium hydroxide are added to a solution of 150 mg (0.25 mmol) of methyl 4-[(4E)-5-{5-fluoro-2-[3-(2-oxopyrrolidin-1-yl)propoxy]phenyl}-3-{2-[4-(methoxycarbonyl)-phenyl]ethyl}pent-4-en-1-yl]benzoate in 10 ml of THF and 10 ml of water, and the mixture is stirred at 50° C. for 12 h. The mixture is then adjusted to pH 2 using 1 M hydrochloric acid and concentrated. The residue obtained is purified directly by preparative HPLC. This gives 130 mg (content 96%, 0.22 mmol, 87% of theory) of the title compound.

reactant | lithium hydroxide | 0.75 mmol, 18 mg | [OH-].[Li+]
reactant | methyl 4-[(4E)-5-{5-fluoro-2-[3-(2-oxopyrrolidin-1-yl)propoxy]phenyl}-3-{2-[4-(methoxycarbonyl)-phenyl]ethyl}pent-4-en-1-yl]benzoate | 0.25 mmol, 150 mg | FC=1C=CC(=C(C1)/C=C/C(CCC1=CC=C(C(=O)OC)C=C1)CCC1=CC=C(C=C1)C(=O)OC)OCCCN1C(CCC1)=O | C36H40FNO6
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 4-[(4E)-3-[2-(4-Carboxyphenyl)ethyl]-5-{5-fluoro-2-[3-(2-oxopyrrolidin-1-yl)propoxy]phenyl}-pent-4-en-1-yl]benzoic acid | C(=O)(O)C1=CC=C(C=C1)CCC(CCC1=CC=C(C(=O)O)C=C1)\C=C\C1=C(C=CC(=C1)F)OCCCN1C(CCC1)=O | C34H36FNO6
